US09029391B2
tert-Butoxy-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester; compound with methane
To a solution of Hydroxyl-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester (600 mg, 1.465 mmol) in t-BuOAc (10 ml) was added HClO4 (512 mg, 5.12 mmol). The resultant mixture was stirred at RT under N2 for 2 h. The reaction mixture was diluted with water and extracted with EA (50 mL*3), dried over sodium sulfate and concentrated to dryness. The mixture was purified by chromatography column on silica gel to afford the title product (300 mg, 44%). LCMS (10-80 AB—2MIN.M): Rt=1.308, purity=96%, M+1=466.

reactant | Hydroxyl-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester | 1.465 mmol, 600 mg | COC(C(C=1N(C(C2=CC(=CC=C2C1C=1C(=C2CCCOC2=CC1)C)O)=O)C)O)=O | C23H23NO6
solvent | t-BuOAc | 10 ml | C(C)(C)(C)OC(=O)C | C6H12O2
solvent | water | O | H2O
product | tert-Butoxy-[7-hydroxy-2-methyl-4-(5-methyl-chroman-6-yl)-1-oxo-1,2-dihydro-isoquinolin-3-yl]-acetic acid methyl ester; compound with methane | 300 mg, 44% | C.COC(C(C=1N(C(C2=CC(=CC=C2C1C=1C(=C2CCCOC2=CC1)C)O)=O)C)OC(C)(C)C)=O | InChI=1S/C27H31NO6.CH4/c1-15-17-8-7-13-33-21(17)12-11-18(15)22-19-10-9-16(29)14-20(19)25(30)28(5)23(22)24(26(31)32-6)34-27(2,3)4;/h9-12,14,24,29H,7-8,13H2,1-6H3;1H4
